*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-270
* Inductance = 0.018uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-270_freq port1 port2 PARAMS: Cpar=0.3pF Ind=0.018uH
X1 port1 port2 Model1A PARAMS:
+ R1=1440
+ R2=0.11
+ C= {Cpar}
+ K1=0.000078
+ K2=0.05
+ K3= {Ind}
+ K4=0.0017
+ K5=5E-10
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=240.939165
.ends 026011F-270_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-720
* Inductance = 0.077uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-720_freq port1 port2 PARAMS: Cpar=0.22pF Ind=0.077uH
X1 port1 port2 Model1A PARAMS:
+ R1=1080
+ R2=0.4
+ C= {Cpar}
+ K1=0.000152
+ K2=0.078
+ K3= {Ind}
+ K4=0.0035
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=495.281462
.ends 026011F-720_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-151
* Inductance = 0.163uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-151_freq port1 port2 PARAMS: Cpar=0.088pF Ind=0.163uH
X1 port1 port2 Model1A PARAMS:
+ R1=1480
+ R2=0.6
+ C= {Cpar}
+ K1=0.000106
+ K2=0.11
+ K3= {Ind}
+ K4=0.0067
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1185.02522
.ends 026011F-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-271
* Inductance = 0.282uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-271_freq port1 port2 PARAMS: Cpar=0.027pF Ind=0.282uH
X1 port1 port2 Model1A PARAMS:
+ R1=2200
+ R2=1.15
+ C= {Cpar}
+ K1=0.000076
+ K2=0.158
+ K3= {Ind}
+ K4=0.0106
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2919.38656
.ends 026011F-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-431
* Inductance = 0.437uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-431_freq port1 port2 PARAMS: Cpar=0.028pF Ind=0.437uH
X1 port1 port2 Model1A PARAMS:
+ R1=1380
+ R2=1.85
+ C= {Cpar}
+ K1=0.00015
+ K2=0.254
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5019.03797
.ends 026011F-431_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-561
* Inductance = 0.584uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-561_freq port1 port2 PARAMS: Cpar=0.022pF Ind=0.584uH
X1 port1 port2 Model1A PARAMS:
+ R1=690
+ R2=2.8
+ C= {Cpar}
+ K1=0.0001
+ K2=0.239
+ K3= {Ind}
+ K4=0.0172
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7268.1356
.ends 026011F-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
